US04772615
5H-Dibenzo[a,d]cyclohepten-5-one (10 g) is dissolved in 80 ml of isopropyl alcohol and sodium borohydride (1.8 g) is added at once. The mixture is stirred at room temperature for two hr. 5 ml of water are added to quench the reaction and the solvent is evaporated. The residue is taken up in diethyl ether and washed with water, dried over MgSO4 and evaporated. 9.8 g (98% yield) of 5H-dibenzo[a,d]cyclohepten-5-ol is obtained.

reactant | 5H-Dibenzo[a,d]cyclohepten-5-one | 10 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C15H10O
reactant | sodium borohydride | 1.8 g | [BH4-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | isopropyl alcohol | 80 ml | C(C)(C)O | C3H8O
product | 5H-dibenzo[a,d]cyclohepten-5-ol | 9.8 g, 98% yield | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)O | C15H12O
